US08293768B2
Synthesis of 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid
Following the procedure as described in Example 20, making variation as required to replace ethyl 4-methyl-2-(5-oxo-1-(4-(trifluoromethyl)benzyl)-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylate with ethyl 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylate, the title compound was obtained as a white solid in 99% yield: 1H NMR (300 MHz, DMSO-d6) δ 13.40 (br s, 1H), 8.74 (s, 1H), 7.37-7.31 (m, 2H), 7.19-7.11 (m, 2H), 4.96 (s, 2H), 2.57 (s, 3H); MS (ES−) m/z 333.0 (M−1).

reactant | ethyl 4-methyl-2-(5-oxo-1-(4-(trifluoromethyl)benzyl)-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C=NN(C1=O)CC1=CC=C(C=C1)C(F)(F)F | C17H15F3N4O3S
reactant | ethyl 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylate | FC1=CC=C(CN2N=CN(C2=O)C=2SC(=C(N2)C)C(=O)OCC)C=C1 | C16H15FN4O3S
product | 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid | 99% yield | FC1=CC=C(CN2N=CN(C2=O)C=2SC(=C(N2)C)C(=O)O)C=C1 | C14H11FN4O3S
